US04402729
Preparation of N-(1,3-Dioxolan-2-ylmethyl)-2-[2-Nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionamide
N-(1,3-Dioxolan-2-ylmethyl)amine (1.85 grams; 0.015 mole), triethylamine (5 ml) and methylene chloride (50 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and addition funnel. The mixture was cooled in a dry ice bath to a temperature of -20° C. to -10° C. and a solution of 2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionyl chloride (4.2 grams; 0.01 mole) in methylene chloride (50 ml) was added dropwise with stirring. After the addition was completed the reaction mixture was allowed to warm to room temperature with stirring over a period of about 1 hour. After this time the reaction mixture was transferred to a separatory funnel and washed with water (100 ml) with dilute aqueous sodium bicarbonate (200 ml; 5% concentration) and again with water (100 ml). The washed mixture was then dried by passing it through phase separation paper and was stripped of solvent in a rotary evaporator under reduced pressure leaving a white solid residue. This residue was dissolved in toluene, treated with activated charcoal and filtered. The filtrate was partially stripped of toluene and diluted with hexane to precipitate the desired product N-(1,3-dioxolan-2-yl-methyl)-2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionamide as a white crystalline solid melting at 148° to 149.5° C.

reactant | N-(1,3-Dioxolan-2-ylmethyl)amine | 0.015 mole, 1.85 grams | O1C(OCC1)CN | C4H9NO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionyl chloride | 0.01 mole, 4.2 grams | [N+](=O)([O-])C1=C(OC(C(=O)Cl)C)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C16H10Cl2F3NO5
reactant | charcoal | C | CH4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(1,3-Dioxolan-2-ylmethyl)-2-[2-Nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]propionamide | O1C(OCC1)CNC(C(C)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O | C20H18ClF3N2O7
